US08008302B2
Step b) Formation of (2S,3R)-6-(4-ethoxyphenyl)-N,2-dihydroxy-3-({4-[2-(2-thienyl)ethyl]piperazin-1-yl}carbonyl)hexanamide (66)
To a solution of (5S)-5-[(1R)-4-(4-ethoxyphenyl)-1-({4-[2-(2-thienyl)ethyl]-1-piperazinyl}carbonyl)butyl]-2,2-dimethyl-1,3-dioxolan-4-one (101 mg, 0.20 mmol) in iPrOH (3 mL) was added a 50% aqueous solution of hydroxylamine (60 μL) and the resulting mixture was stirred at RT for 1 hour. Then water (12 mL) was added and the resulting mixture was purified by reverse-phase chromatography (using a mixture of water and iPrOH with a ratio from 4:1 to 1:1 as eluent) to give 40 mg (42%) of the title compound as a white powder. M−(ESI): 488.4; M+(ESI): 490.4. HPLC, Rt: 2.5 min (purity: 97.0%).

reactant | (5S)-5-[(1R)-4-(4-ethoxyphenyl)-1-({4-[2-(2-thienyl)ethyl]-1-piperazinyl}carbonyl)butyl]-2,2-dimethyl-1,3-dioxolan-4-one | 0.20 mmol, 101 mg | C(C)OC1=CC=C(C=C1)CCC[C@@H](C(=O)N1CCN(CC1)CCC=1SC=CC1)[C@H]1C(OC(O1)(C)C)=O | C28H38N2O5S
reactant | hydroxylamine | 60 μL | NO | H3NO
reactant | water | 12 mL | O | H2O
solvent | iPrOH | 3 mL | CC(C)O | C3H8O
product | (2S,3R)-6-(4-ethoxyphenyl)-N,2-dihydroxy-3-({4-[2-(2-thienyl)ethyl]piperazin-1-yl}carbonyl)hexanamide | 40 mg, 42% | C(C)OC1=CC=C(C=C1)CCC[C@H]([C@@H](C(=O)NO)O)C(=O)N1CCN(CC1)CCC=1SC=CC1 | C25H35N3O5S
